US06858739B2
Step D: 5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenylamine
To a mixture of the product from Step C, 2-(4,5-difluoro-2-nitro-phenyl)-1-(4-methoxy-3-nitro-phenyl)-ethanone (4.00 g, 11.3 mmol) in glacial acetic acid (100 mL) was added in portions zinc dust (28 g, 325 mesh) at 0° C. Upon adding a few portions of zinc, the reaction mixture became a solid mass. The cooling bath was removed, and the remaining zinc was added in portions; the cooling bath was replaced, and stirring was continued for 1 hour at 0° C. and 1 hour at room temperature. The zinc metal was removed by filtration and the metal was washed with ethyl acetate. The organic solution was concentrated to dryness and the residue was partitioned between ethyl acetate (200 mL) and saturated aqueous sodium bicarbonate solution (200 mL). The layers were separated, the organic layer washed with brine, dried (magnesium sulfate), filtered, and concentrated to a tan solid. The solid was triturated with hexanes/ethyl acetate, 15/1, v/v and the insoluble portion collected by filtration (2.35 g), mp 210-211° C.

reactant | 2-(4,5-difluoro-2-nitro-phenyl)-1-(4-methoxy-3-nitro-phenyl)-ethanone | 11.3 mmol, 4.00 g | FC1=CC(=C(C=C1F)CC(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C15H10F2N2O6
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 28 g | [Zn] | Zn
product | 5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenylamine | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)N)OC | C15H12F2N2O
